US06133258
The reaction procedure of Example 11 was followed except that 900 mg (3.11 mmol) of 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 25 mg of lithium hydride and 584 mg of ethyl iodide were used. The resulting residue was then purified through silica gel column chromatography (eluant: chloroform) to obtain 577 mg of 2-[(4-chlorophenyl)imino]-2,3-dihydro-3-ethyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one (58%, recrystallized from a mixture of ether and hexane) as a low polarity substance and 61 mg of 2-[N-(4-chlorophenyl)-N-ethylamino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one (6%, recrystallized from ether) as a high polarity substance.

reactant | 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 3.11 mmol, 900 mg | ClC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C13H8ClN3OS
reactant | lithium hydride | 25 mg | [H-].[Li+]
reactant | ethyl iodide | 584 mg | C(C)I | C2H5I
product | 2-[(4-chlorophenyl)imino]-2,3-dihydro-3-ethyl-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 577 mg | ClC1=CC=C(C=C1)N=C1SC2=C(C(N1CC)=O)C=CC=N2 | C15H12ClN3OS
